US04656298
A solution of 4.4 g of ethyl 3-amino-2-(4-fluorophenyl)propyl(diethoxymethyl)phosphinate in 40 ml of 36% aqueous hydrochloric acid is heated to reflux for a period of 2 h. The reaction mixture is then allowed to cool to room temperature, concentrated under reduced pressure and co-evaporated twice with 20 ml of water under reduced pressure. The crude product is dissolved in 20 ml of water, washed twice with 20 ml of diethyl ether and the aqueous layer is then separated and evaporated under reduced pressure. The crude product is dissolved in 50 ml ethanol and 5 ml of propylene oxide is added dropwise. The precipitated solid is collected by filtration and dried to give 3-amino-2-(4-fluorophenyl)propylphosphonous acid (1/3M H2O), m.p. 225°-235° C., 31P=+24.1 ppm (D2O).

reactant | ethyl 3-amino-2-(4-fluorophenyl)propyl(diethoxymethyl)phosphinate | 4.4 g | NCC(CP(OCC)(=O)C(OCC)OCC)C1=CC=C(C=C1)F | C16H27FNO4P
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 3-amino-2-(4-fluorophenyl)propylphosphonous acid | 1/3M | NCC(CP(O)O)C1=CC=C(C=C1)F | C9H13FNO2P
